US05753664
3-Methyl-2-[4-[6-(4-piperidinopiperidinyl)nicotinoyl]benzylthio]thieno[3,2-d]pyrimidin-4(3H)-one hydrochloride
A solution of 2-[4-(6-chloronicotinoyl]benzylthio]-3-methylthieno[3,2-d]pyrimidin-4(3H)-one (427 mg) and 4-piperidinopiperidine (202 mg) in pyridine (10 ml) was stirred at 80° C. for 10 hours. This reaction mixture was concentrated, the residue was dissolved in chloroform, and the solution was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform: methanol: aqueous ammonia=50:1:0.1) and treated with HCl/ethyl acetate for conversion to hydrochloride to provide the title compound as colorless solid (373 mg).

reactant | 2-[4-(6-chloronicotinoyl]benzylthio]-3-methylthieno[3,2-d]pyrimidin-4(3H)-one | 427 mg | ClC1=NC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)C=CS4)=O)C)C=C2)C=C1 | C20H14ClN3O2S2
reactant | 4-piperidinopiperidine | 202 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-2-[4-[6-(4-piperidinopiperidinyl)nicotinoyl]benzylthio]thieno[3,2-d]pyrimidin-4(3H)-one hydrochloride | 373 mg | Cl.CN1C(=NC2=C(C1=O)SC=C2)SCC2=CC=C(C=C2)C(C2=CN=C(C=C2)N2CCC(CC2)N2CCCCC2)=O | InChI=1S/C30H33N5O2S2.ClH/c1-33-29(37)28-25(13-18-38-28)32-30(33)39-20-21-5-7-22(8-6-21)27(36)23-9-10-26(31-19-23)35-16-11-24(12-17-35)34-14-3-2-4-15-34;/h5-10,13,18-19,24H,2-4,11-12,14-17,20H2,1H3;1H
